US07169926B1
A suspension of 1-benzyl-4-hydroxy-3-nitro-1H-pyridine-2-one (3.30 g, 13.4 mmol) in POCl3 (30.8 g, 201 mmol) was heated at for 1 h. After cooling to room temperature, the solvent was evaporated under reduced pressure, and water was carefully added to the chilled residue. The mixture was neutralized with 2 N NaOH, extracted with CHCl3, washed with brine, dried with MgSO4, and concentrated under reduced pressure. The resulting solid was rinsed with Et2O to give 1-benzyl-4-chloro-3-nitro-1H-pyridin-2-one (1.31 g, 37% yield). 1H-NMR (CDCl3): δ 7.36 (m, 6H), 6.29 (d, 1H, J=7.6 Hz), 5.16 (s, 2H). MS: calculated for C12H9ClN2O3+H 265.0; found: 265.1.

reactant | 1-benzyl-4-hydroxy-3-nitro-1H-pyridine-2-one | 13.4 mmol, 3.30 g | C(C1=CC=CC=C1)N1C(C(=C(C=C1)O)[N+](=O)[O-])=O | C12H10N2O4
reactant | POCl3 | 201 mmol, 30.8 g | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-benzyl-4-chloro-3-nitro-1H-pyridin-2-one | 1.31 g, 37% yield | C(C1=CC=CC=C1)N1C(C(=C(C=C1)Cl)[N+](=O)[O-])=O | C12H9ClN2O3
